US09340544B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-trifluoromethyl-phenyl)-amine (Compound 9.4)
Was prepared according to Example 9 from (2-hydrazino-9-methyl-9H-purin-6-yl)-(4-trifluoromethyl-phenyl)-amine and 2,4-pentanedione.

reactant | (2-hydrazino-9-methyl-9H-purin-6-yl)-(4-trifluoromethyl-phenyl)-amine | N(N)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)C(F)(F)F | C13H12F3N7
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-trifluoromethyl-phenyl)-amine | CC1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)C(F)(F)F | C18H16F3N7
